US06849620B2
A mixture of 4-amino-3-hydroxybenzoic acid (500 mg, 3.7 mmol) and trimethyl orthoacetate (1.0 mL, 7.9 mmol) is heated in an oil bath to 100° C. for 2 h. The mixture is cooled to rt and diluted with MeOH. The resulting solution is filtered through a pad of Celite, and the filtrate is concentrated in vacuo to give 2-methyl-1,3-benzoxazole-6-carboxylic acid as an off-white solid (266 mg, 46%): 1H NMR (DMSO-d6) δ 13.1, 8.2, 8.0, 7.7, 2.7.

reactant | 4-amino-3-hydroxybenzoic acid | 3.7 mmol, 500 mg | NC1=C(C=C(C(=O)O)C=C1)O | C7H7NO3
reactant | trimethyl orthoacetate | 7.9 mmol, 1.0 mL | C(C)(OC)(OC)OC | C5H12O3
solvent | MeOH | CO | CH4O
product | 2-methyl-1,3-benzoxazole-6-carboxylic acid | 266 mg, 46% | CC=1OC2=C(N1)C=CC(=C2)C(=O)O | C9H7NO3
